US05856503
Analogously to Example 18d, from 3-(4-bromo-phenyl)-benzofuran-6-ol and 1,6-dibromohexane via 6-(6-bromo-hexyloxy)-3-(4-bromo-phenyl)-benzofuran and by reaction with N-allyl-methyl-amine there is obtained allyl-[6-[3-(4-bromo-phenyl)-benzofuran-6-yloxy]-hexyl]-methyl-amine which is converted into the fumarate, MS: m/e 442 (M+H+, 1 Br).

reactant | 3-(4-bromo-phenyl)-benzofuran-6-ol | BrC1=CC=C(C=C1)C1=COC2=C1C=CC(=C2)O | C14H9BrO2
reactant | 1,6-dibromohexane | BrCCCCCCBr | C6H12Br2
reactant | 6-(6-bromo-hexyloxy)-3-(4-bromo-phenyl)-benzofuran | BrCCCCCCOC1=CC2=C(C(=CO2)C2=CC=C(C=C2)Br)C=C1 | C20H20Br2O2
reactant | N-allyl-methyl-amine | C(C=C)NC | C4H9N
product | allyl-[6-[3-(4-bromo-phenyl)-benzofuran-6-yloxy]-hexyl]-methyl-amine | C(C=C)N(C)CCCCCCOC1=CC2=C(C(=CO2)C2=CC=C(C=C2)Br)C=C1 | C24H28BrNO2
